US07030141B2
Step 3: (2R,4R)-2-(4-bromo-2-fluoro-phenylcarbamoyl)-4-(tert-butyl-dimethyl-silanyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester
(2R,4R)-4-(tert-Butyl-dimethyl-silanyloxy)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (4.45 g, 12.9 mmol) was dissolved in 50 mL dry CHCl3 under an Ar atmosphere, added 4-bromo-2-fluoroaniline (2.45 g, 12.9 mmol), EEDQ (3.8 g, 15 mmol), and triethylamine (2.6 mL, 19.3 mmol). Reaction was refluxed for 6 hours, cooled and concentrated. Redissolved in EtOAc (250 mL), washed with 10% HCl (2×200 mL), 0.1M NaOH (2×200 mL), water, brine, dried with MgSO4, filtered and concentrated to yield title compound. (5.5 g, 82%) APCI (AP−): 515.1, 517.1 (M−H)−.

reactant | (2R,4R)-4-(tert-Butyl-dimethyl-silanyloxy)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 12.9 mmol, 4.45 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)O | C16H31NO5Si
reactant | 4-bromo-2-fluoroaniline | 12.9 mmol, 2.45 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | EEDQ | 15 mmol, 3.8 g | CCOC1C=CC2=CC=CC=C2N1C(=O)OCC | C14H17NO3
reactant | triethylamine | 19.3 mmol, 2.6 mL | C(C)N(CC)CC | C6H15N
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | (2R,4R)-2-(4-bromo-2-fluoro-phenylcarbamoyl)-4-(tert-butyl-dimethyl-silanyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(NC1=C(C=C(C=C1)Br)F)=O | C22H34BrFN2O4Si
